US08309059B2
5-((1E,3E)-3-(1,1-Dimethyl-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-2(4H)-ylidene)prop-1-enyl)-6-(6-hydroxyhexyl)-6-methyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride (PBI 3785).
A mixture of 5,6,6-trimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium acetate (1.0 g, 3.19 mmol) and N,N′-diphenylformamidine (939.6 mg, 4.79 mmol) in 10 mL acetic anhydride and 10 mL acetic acid were refluxed for 2 hours. After cooling to room temperature the volatiles were removed under reduced pressure. The resulting oil was diluted with CH2Cl2, washed with 2M HCl (aqueous), dried over Na2SO4 and concreted to give a brown solid. This solid was combined with 6-(6-hydroxyhexyl)-5,6-dimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride (1.13 g, 3.51 mmol) in 15 mL acetic anhydride. To this stirring mixture was added 2.5 mL triethylamine. The reaction was heated to 90° C. for 1 hour yielding a dark mixture. After cooling to room temperature the volatiles were removed under reduced pressure. The residue was dissolved in CH2Cl2 and was washed with 2 M HCl. The separated organic phase was dried over Na2SO4 and concentrated to give a red solid. This was subsequently dissolved in 75 mL ACN/75 mL 1 M HCl (aqueous) and refluxed for 2.5 hours. The volume of the mixture was reduced to about 50 mL and the product was extracted with CH2Cl2. Evaporation of solvent gave a dark solid that was subjected to silica gel chromatography affording the product as a red solid. MS m/z calculated for C34H43N2O (M+): 495.3. Found 495.5 (M+, ESI+).

reactant | 5,6,6-trimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium acetate | 3.19 mmol, 1.0 g | C(C)(=O)[O-].CC1=C[NH+]2C3=C(C=CC=C3C1(C)C)CC2
reactant | N,N′-diphenylformamidine | 4.79 mmol, 939.6 mg | C1(=CC=CC=C1)NC=NC1=CC=CC=C1 | C13H12N2
reactant | 6-(6-hydroxyhexyl)-5,6-dimethyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride | 3.51 mmol, 1.13 g | [Cl-].OCCCCCCC1(C(=C[NH+]2C3=C(C=CC=C13)CC2)C)C
reactant | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ACN | 1 M, 75 mL | C(C)#N | C2H3N
product | 5-((1E,3E)-3-(1,1-Dimethyl-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-2(4H)-ylidene)prop-1-enyl)-6-(6-hydroxyhexyl)-6-methyl-1,2,3,6-tetrahydropyrrolo[3,2,1-ij]quinolinium chloride | [Cl-].CC1(/C(/N2CCCC3=CC=CC1=C23)=C\C=C\C2=C[NH+]3C1=C(C=CC=C1C2(C)CCCCCCO)CC3)C | InChI=1S/C34H42N2O.ClH/c1-33(2)28-16-8-12-25-14-11-21-36(32(25)28)30(33)18-10-15-27-24-35-22-19-26-13-9-17-29(31(26)35)34(27,3)20-6-4-5-7-23-37;/h8-10,12-13,15-18,24,37H,4-7,11,14,19-23H2,1-3H3;1H/b15-10+,30-18+;
